Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
SOB, CP, Weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a PMH of COPD, prior CVA w/ residual left-sided
weakness, chronic headache attributed to sinusitis, IDDM c/b
gastroparesis, CAD s/p stent (___), who p/w SOB, CP, and
left-sided headache. 

Pt reports that she has been feeling SOB since ___. She
denies new or chronic cough. States that she feels like she has
to cough but nothing comes up. She walks just around her house
with a walker but does not walk further. Denies fevers/chills,
sick contacts. She has been using her home inhaler. She is 
laying
flat in bed and does not note any worsened SOB w/ lying flat. 
She
personally denies smoking but is not on home oxygen per PCP note
because there was concern she was still smoking at home. Her
daughter does not know if she is smoking.

Pt describes sharp, constant, non-radiating pain beneath her
right breast. This pain is worse with coughing, non-pleuritic.
She says it feels similar to the pain she had prior to having a
stent placed in ___. Pain is worse with palpation. 

She has left temporal/sinus pain that she describes as her face
feeling "heavy." This pain is constant. She denies visual
changes, double vision, hearing loss, jaw claudication. 

Denies history of blood clots, leg swelling. Denies
fevers/chills, N/V, diarrhea/constipation, dysuria/urinary
frequency, new weakness/numbness/tingling .

Recently admitted ___ for fatigue and hyperglycemia,
insulin regimen adjusted by ___. Recently admitted ___
for epigastric pain and SOB found to have CAD and RCA stent was
placed. 

She was seen in the ED ___ for dizziness and L sided
reduced facial sensation (which daughter states was actually R
sided). CT head ___ did not show acute stroke. Pt was seen by
neurology for vertigo who recommended outpatient follow up. 

In the ED, initial vitals: 97.7 72 160/90 20 92  

Labs were significant for:
1) BMP: Na 137, K 5.9, Cl 102, HCO3 26, BUN 20, Cr 1.2
2) Trop 0.01
3) LFT: ALT 32, AST 35, AP 122, Lipase 18, Tbili 0.3, Albumin 
3.5
4) BNP: 623
5) CRP: 56.3
6) CBC: WBC 12.8, Hb 10.4, plt 220
7) Coags: INR 1.2, PTT 34.2
8) A1C 11.7%
9) VBG: 7.39/49

Imaging showed:
1) CXR: Hyperinflated lungs. No focal consolidation
2) EKG: SR, normal axis, 

In the ED, pt received:
___ 00:49 IH Ipratropium-Albuterol Neb 1 NEB  
___ 00:59 IH Ipratropium-Albuterol Neb 1 NEB   
___ 03:18 PO PredniSONE 60 mg 

Vitals prior to transfer: 98.8 67 117/39 20 97% RA  

Upon arrival to the floor,
 
ROS: (+) as above, otherwise 10 point ROS negative
 
Past Medical History:
- CAD s/p RCA stent ___
- COPD
- T2DM c/b peripheral neuropathy, gastroparesis (markedly
abnormal gastric emptying study ___
- HLD
- HTN 
- TIA
- GI intestinal metaplasia
- H pylori gastritis
- GERD w/ irregular Z line
- Back pain
- Osteoporosis 
- Urinary incontinence 
- Chronic L sided weakness
 
Social History:
___
Family History:
Mother- died at age ___, had CAD, DM2, HTN 
Father- died at ___ of possible laryngeal cancer 
Notable for BPAD in a daughter. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS:  100.3 PO 122 / 66 68 17 93 Ra  
GEN: Lying in bed, NAD
HEENT: PERRL, EOMI, OP clear, MMM
NECK: Supple 
PULM: Bilateral wheezes, decreased breath sounds
CARDS: RRR, S1 S2 present, no mrg  
CHEST: Below R breast focal TTP, no bruising/swelling
ABD: SNTND, +BS, no rebound/guarding
EXTREM: WWP, no ___ edema
NEURO: CN II-XII intact with exception of reported decreased
sensation R V2-V3. ___ strength in ___ bilaterally. AOx3, ___
backwards w/ exception of mixing ___ 

DISCHARGE PHYSICAL EXAM
======================
24 HR Data (last updated ___ @ 1111)
    Temp: 98.3 (Tm 98.6), BP: 126/70 (112-152/62-77), HR: 69
(65-69), RR: 18, O2 sat: 95% (95-99), O2 delivery: 2l (2L Nc-3L
Nc)   
 
GEN: Alert, eating breakfast. Appears comfortable.
HEENT: PERRL, EOMI, OP clear, MMM
NECK: Supple 
PULM: CTAB, decreased breath sounds bilaterally. 
CARDS: RRR, no murmurs, rubs, or gallops. 
CHEST: No bruising or swelling
ABD: Distended abdomen with minimal tenderness. No rebound or
guarding. 
EXTREM: WWP, no ___ edema
NEURO: CNII-XII intact. ___ strength in UE b/l, ___ strength 
LLE.
AOx3
 
Pertinent Results:
ADMISSION LABS
=============
___ 12:40AM BLOOD WBC-12.8* RBC-3.60* Hgb-10.4* Hct-31.3* 
MCV-87 MCH-28.9 MCHC-33.2 RDW-13.9 RDWSD-43.9 Plt ___
___ 12:40AM BLOOD Neuts-71.6* Lymphs-18.4* Monos-7.9 
Eos-1.4 Baso-0.2 Im ___ AbsNeut-9.16* AbsLymp-2.35 
AbsMono-1.01* AbsEos-0.18 AbsBaso-0.02
___ 12:40AM BLOOD Glucose-175* UreaN-20 Creat-1.2* Na-137 
K-5.9* Cl-102 HCO3-26 AnGap-9*
___ 12:40AM BLOOD ALT-32 AST-35 AlkPhos-122* TotBili-0.3
___ 12:40AM BLOOD Lipase-18
___ 12:40AM BLOOD cTropnT-<0.01 proBNP-623
___ 12:50PM BLOOD CK-MB-<1 cTropnT-<0.01
___ 12:40AM BLOOD calTIBC-293 Ferritn-151* TRF-225
___ 12:40AM BLOOD %HbA1c-11.7* eAG-289*
___ 12:40AM BLOOD CRP-56.3*

IMAGES
======

CXR (___): Hyperinflated lungs.  No focal consolidation.

NOTABLE LABS
============

CRP  (___): 56
ESR (___): 38

DISCHARGE LABS
=============
___ 04:46AM BLOOD WBC-9.6 RBC-3.55* Hgb-10.3* Hct-31.4* 
MCV-89 MCH-29.0 MCHC-32.8 RDW-14.0 RDWSD-45.3 Plt ___
___ 04:46AM BLOOD Glucose-118* UreaN-13 Creat-1.2* Na-140 
K-5.6* Cl-101 HCO3-26 AnGap-13
___ 04:46AM BLOOD Calcium-9.0 Phos-4.4 Mg-2.___ with a PMH of COPD, prior CVA w/ residual left-sided 
weakness, chronic headache attributed to sinusitis, IDDM c/b 
gastroparesis, CAD s/p stent (___), who p/w SOB, CP, and 
left-sided headache. 

ACUTE ISSUES:
=============
# Hyperkalemia: Developed hyperkalemia in setting of ___, 
although may be chronic in part. Improved after stopping 
lisinopril. Will need to recheck lytes in ___ days. 

# Ileus
# Constipation
Abdominal improved after bowel regimen. Evidence of ileus, but 
no
obstruction. C diff PCR positive, but toxin negative suggesting
infection unlikely. Loose stool in the setting of
bowel regimen and ileus. No evidence of infection. She should 
continue her bowel regimen after discharge. 

# COPD Exacerbation: SOB likely ___ COPD exacerbation given 
wheezes on exam. Not on home O2 previously. O2 sat 86%/RA ___, 
requiring ___ O2. No e/o PNA on CXR ___. Low c/f PE. Pt 
received 5D course of prednisone/azithromycin. She received 
albuterol/Duonebs. Pt was discharged on home oxygen.

# L Temporal/Sinus Headache: L temporal/maxillary/scalp pain is 
most likely due to chronic sinusitis. Per ENT evaluation pt 
requires outpatient follow up for surgical intervention. Low c/f 
temporal arteritis given lack of vision changes/jaw claudication 
and alternative explanation. Temporal artery US ___ w/o 
concerning changes. Temporal artery biopsy was deferred. Pt was 
started on 3D afrin, flonase, nasal spray.

# Chest Pain: Likely musculoskeletal given area below R breast/L 
breast given TTP. Negative troponin x2 and EKG w/o ischemic 
changes. However, she should have cardiology follow up given 
recent stenting of RCA and consideration of repeat stress if 
pain recurs. 

# Normocytic Anemia: Baseline Hb ___, p/w Hb 10. Possibly new 
baseline. Pt denied blood in stool. Fe studies c/w Fe deficiency 
anemia. Pt started on ferrous gluconate 324 mg QD.

# Dizziness: Pt denies current dizziness. Seen by neurology ___ 
for vertigo in addition to R facial decreased sensation. CT head 
negative at the time, planned for outpatient neurology follow 
up. 

# IDDM: Followed by ___. A1C 11.7%. Patient developed 
significant hypoglycemia in the morning, so her insulin dose was 
decreased to 15u QAM. She should have close follow up with 
___. 

CHRONIC ISSUES:
===============
# CKD: Baseline Cr 0.9-1.4. Held lisinopril at discharge given 
Cr elevated 1.3 and hyperkalemia. 

# HTN: Continued on home amlodipine 5 mg QD, lisinopril 20 mg QD 
and metoprolol succinate 25 mg QD.

# Neuropathy: Continued on pregabalin 25 mg TID, tramadol 50 mg 
BID:PRN, lidocaine patch.

# CAD: S/p stent (___): Continued on aspirin 325 mg QD, 
plavix 75 mg QD and atorvastatin 80 mg QD

# Nutrition: Continued ensure

# Depression: Continued fluoxetine 20 mg QD

# Insomnia: Continued home melatonin 1 mg QHS

# GERD: Continued home omeprazole 20 mg QD

# Smoking: PRN nicotine patch

TRANSITIONAL ISSUES
================== 
[ ] Stopped Lisinopril in setting of ___. Please recheck Cr at 
follow up appointment and restart Lisinopril if Cr normalized 
and potassium is stable. (Discharge Cr 1.3)
[ ] Please recheck Chem10 in ___ days to ensure that K+ is 
stable. 
[ ] Started fluticasone nasal spray for treatment of sinusitis. 
Patient need close follow up at ENT appointment with Dr. 
___ on ___ for consideration of sinus surgery
[ ] Follow up with cardiology and consider ischemia workup if 
pain recurs. 
[ ] Started fluticasone-salmeterol 100/50 BID for treatment of 
COPD. Patient should continue on this regimen post-discharge
[ ] Started ferrous gluconate 324mg every other day for 
treatment of iron deficiency anemia. Should follow up repeat 
CBC. 
[ ] Repeat low-dose CT RUL seen in ___
[ ] Home O2: Patient has COPD and is in a chronic and stable 
state, not experiencing acute illness/exacerbation. Alternative 
treatments have been tried and failed in improving hypoxia 
(including treatment of COPD, incentive spirometry, chest ___. 
Pt requires long-term home and portable oxygen therapy to 
improve hypoxia related symptoms. 
[ ] Progress note faxed to ___ F: ___ Cell: 
___ in order to secure home oxygen delivery (must have 
exact wording above) 
# Contact: ___ (daughter) ___ 
# Code: Full (presumed) 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
2. Glargine 36 Units Breakfast
Insulin SC Sliding Scale using UNK Insulin
3. Pregabalin 25 mg PO TID 
4. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever 
5. Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB 
6. amLODIPine 5 mg PO DAILY 
7. Aspirin 325 mg PO DAILY 
8. Atorvastatin 80 mg PO QPM 
9. Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral QD 
10. Clopidogrel 75 mg PO DAILY 
11. FLUoxetine 20 mg PO DAILY 
12. Lisinopril 20 mg PO DAILY 
13. melatonin 1 mg oral QHS 
14. Metoprolol Succinate XL 25 mg PO DAILY 
15. Lidocaine 5% Patch 1 PTCH TD QAM 
16. Nicotine Patch 7 mg/day TD DAILY 
17. Omeprazole 20 mg PO DAILY 
18. TraMADol 50 mg PO BID:PRN Pain - Moderate 
19. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
20. Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
nausea  

 
Discharge Medications:
1.  Ferrous GLUCONATE 324 mg PO EVERY OTHER DAY 
RX *ferrous gluconate 324 mg (37.5 mg iron) 1 tablet(s) by mouth 
every other day Disp #*15 Tablet Refills:*0 
2.  Fluticasone Propionate NASAL 2 SPRY NU BID 
RX *fluticasone 50 mcg/actuation 2 spray nasal twice a day Disp 
#*1 Spray Refills:*0 
3.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 100 mcg-50 mcg/dose 1 
puff inh twice a day Disp #*1 Disk Refills:*0 
4.  Glargine 15 Units Breakfast
Humalog 2 Units Breakfast
Humalog 2 Units Lunch
Humalog 2 Units Dinner 
5.  Polyethylene Glycol 17 g PO TID:PRN Constipation - Third 
Line  
6.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild/Fever  
7.  Albuterol Inhaler 1 PUFF IH Q4H:PRN SOB  
8.  Aluminum-Magnesium Hydrox.-Simethicone ___ mL PO QID:PRN 
nausea   
9.  amLODIPine 5 mg PO DAILY  
10.  Aspirin 325 mg PO DAILY  
11.  Atorvastatin 80 mg PO QPM  
12.  Clopidogrel 75 mg PO DAILY  
13.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
 
14.  FLUoxetine 20 mg PO DAILY  
15.  Lidocaine 5% Patch 1 PTCH TD QAM  
16.  melatonin 1 mg oral QHS  
17.  Metoprolol Succinate XL 25 mg PO DAILY  
18.  Nicotine Patch 7 mg/day TD DAILY  
19.  Omeprazole 20 mg PO DAILY  
20.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line  
21.  Pregabalin 25 mg PO TID  
22.  TraMADol 50 mg PO BID:PRN Pain - Moderate  
23.  Vitamin D3 (cholecalciferol (vitamin D3)) 2,000 unit oral 
QD  
24. HELD- Lisinopril 20 mg PO DAILY  This medication was held. 
Do not restart Lisinopril until you see your primary care doctor

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
================
COPD Exacerbation
Sinusitis
Normocytic Anemia

SECONDARY DIAGNOSIS
==================
Dizziness
Normocytic Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to be part of your care. 

You presented to the hospital with difficulty breathing and a 
headache. 

Your shortness of breath was likely due to a COPD exacerbation. 
You received treatment for your COPD and your breathing 
improved. You will need oxygen when you leave the hospital.

Your headache is likely due to your chronic sinusitis. You will 
need to see the Ear, Nose and Throat doctors when ___ leave the 
hospital to have surgery to prevent yourself from continuing to 
get sinus infections. We have prescribed a nasal steroid which 
you should take every day. 

We are holding your lisinopril medication due to a worsening in 
your kidney function. You should get this rechecked when you see 
your primary care doctor prior to restarting this medication. 

You also had stomach pain, likely due to constipation. We 
started you on medications to help you move your bowels and 
things improved. You should continue taking these after you 
leave. 

You also had low blood sugars while you were in the hospital, 
but you were found to have a high hemoglobin A1c. We decreased 
your insulin and you should follow up with your primary care 
doctor. 

If you experiences any fevers, chills, difficulty breathing, 
chest pain, vision changes, worsening headache then please seek 
medical attention. 

We wish you the best,
Your ___ Team 
 
Followup Instructions:
___